US05300639
2-phenyl-4-stearoyl-5,6,7,8-tetrahydro-4H-thiazolo-[5,4-b]azepine
Stearoyl chloride (4.65 ml) was added dropwise to a mixture of 2-phenyl-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]-azepine (2.65 g), triethylamine (2.26 ml) and THF (30 ml) under ice-cooling and stirring. After completing addtion dropwise, the mixture was stirred for 1.5 hrs. at room temperature and distilled under reduced pressure to remove the solvent. The residue was extracted with chloroform, and the extract was washed with water, dried and distilled to remove the solvent. The residue was purified by a column chromatography on silica gel to give the title compound (4.31 g, 76%).

reactant | Stearoyl chloride | 4.65 ml | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
reactant | 2-phenyl-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]-azepine | 2.65 g | C1(=CC=CC=C1)C=1SC=2NCCCCC2N1 | C13H14N2S
reactant | triethylamine | 2.26 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-phenyl-4-stearoyl-5,6,7,8-tetrahydro-4H-thiazolo-[5,4-b]azepine | 4.31 g, 76% | C1(=CC=CC=C1)C=1SC=2N(CCCCC2N1)C(CCCCCCCCCCCCCCCCC)=O | C31H48N2OS
